US06329370B1
Benzyl-{3-[1-(3,5-dichloro-pyridin-4-ylmethyl)-6-methoxy-phthalazin-5-yl]-prop-2-ynyl}-methyl-amine dihydrochloride (Compound 35)
A suspension under N2 of trifluoro-methanesulfonic acid 1-(3,5-dichloro-pyridin-4-ylmethyl)-6-methoxy-phthalazin-5-yl ester (5 g, 10.68 mmoles), prepared as described in example 73, benzyl-methyl-prop-2-ynyl-amine (2.16 ml, 12.82 mmoles) and diethylamine (100 ml) was added under stirring with bis(triphenylphosphine)PdCl2 (150.2 mg, 0.214 mmole) and CuI (40.75 mg, 0.214 mmole). The mixture was refluxed for 6 hours, brought to dryness and the residue flash chromatographed (eluent: ethyl acetate) to give a solid which was dissolved in CH2Cl2/CH3OH 1:1 (50 ml), acidified with a solution of HCl in ethyl acetate and brought to dryness. The residue was dissolved in CH2Cl2 (100 ml), brought to dryness again, triturated in ethyl acetate (150 ml), filtered and dried in oven under vacuum at 40° C. to give 5.22 g of the title compound (yield: 83%).

reactant | trifluoro-methanesulfonic acid 1-(3,5-dichloro-pyridin-4-ylmethyl)-6-methoxy-phthalazin-5-yl ester | 10.68 mmoles, 5 g | ClC=1C=NC=C(C1CC1=NN=CC2=C(C(=CC=C12)OC)OS(=O)(=O)C(F)(F)F)Cl | C16H10Cl2F3N3O4S
reactant | benzyl-methyl-prop-2-ynyl-amine | 12.82 mmoles, 2.16 ml | C(C1=CC=CC=C1)N(CC#C)C | C11H13N
reactant | diethylamine | 100 ml | C(C)NCC | C4H11N
reactant | HCl | Cl | ClH
solvent | CH2Cl2 CH3OH | 50 ml | C(Cl)Cl.CO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
catalyst | CuI | 0.214 mmole, 40.75 mg | [Cu]I
product | Benzyl-{3-[1-(3,5-dichloro-pyridin-4-ylmethyl)-6-methoxy-phthalazin-5-yl]-prop-2-ynyl}-methyl-amine dihydrochloride | 5.22 g, yield: 83% | Cl.Cl.C(C1=CC=CC=C1)N(C)CC#CC1=C2C=NN=C(C2=CC=C1OC)CC1=C(C=NC=C1Cl)Cl | InChI=1S/C26H22Cl2N4O.2ClH/c1-32(17-18-7-4-3-5-8-18)12-6-9-20-22-14-30-31-25(19(22)10-11-26(20)33-2)13-21-23(27)15-29-16-24(21)28;;/h3-5,7-8,10-11,14-16H,12-13,17H2,1-2H3;2*1H
